US08022062B2
6-Hydroxy-7-iodo-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.037 g, 4.0 mmol) and diisopropylamine (60.7 mg, 0.6 mmol) to anhydrous DCM (350 mL) and stir at 10-20° C. Add slowly a solution of N-iodosuccinimide (1.035 g, 4.6 mmol) in DCM (100 mL) over a period of 3 h. Stir the reaction mixture overnight and gradually warm to ambient temperature. Quench the reaction with saturated aqueous NaHCO3, separate the organic layer, wash the organic layer with 0.1N aqueous HCl, brine, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with EtOAc/hexane (1:20 to 1:10) to give the desired intermediate as a white solid (1.0 g, 65%). MS (ES+) m/z: 386 (M+H)+.

reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.0 mmol, 1.037 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
reactant | diisopropylamine | 0.6 mmol, 60.7 mg | C(C)(C)NC(C)C | C6H15N
reactant | N-iodosuccinimide | 4.6 mmol, 1.035 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 350 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-7-iodo-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.0 g, 65% | OC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)I | C12H11F3INO2
